US05656626
8-Chloro-3-methoxy-4-trimethylsilanylethynyl-1H-benzo(b)azepine-2,5-dione
8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine (6.62 g) was dissolved in 146 mL of DMF at room temperature under argon. The solution was treated with trimethylsilyl acetylene (8.94 g, 12.9 mL) followed by triethylamine (3.68 g, 5.07 mL). The mixture was then treated with bis-chloro-bis-(triphenyl-phosphine) palladium (II) (0.64 g) followed by cuprous iodide (0.51 g). The solution was stirred at room temperature for 3 hours. The mixture was concentrated to a solid. It was treated with cold water and extracted with ethyl acetate. The extract was washed with brine, dried over sodium sulfate, filtered, and concentrated to a dark solid (5.73 g). It was dissolved in chloroform and ethyl acetate and chromatographed on silica gel with 17% ethyl acetate in hexane to give a yellow solid (2.61 g). A portion (0.24 g) of the solid was recrystallized from toluene (5 mL). The crystals were cooled in an ice bath and filtered off to give light-yellow crystals (0.162 g); mp 218.8°-219.4° C. (dec); MS: m/z=334 (M+1). Analysis for C16H16ClNO3Si: Calculated: C, 57.56; H, 4.83; N, 4.20; Found: C, 57.49; H, 5.01; N, 4.27.

reactant | 8-Chloro-4-iodo-3-methoxy-2,5-dioxo-2,5-dihydro-1H-benz[b]azepine | 6.62 g | ClC=1C=CC2=C(NC(C(=C(C2=O)I)OC)=O)C1 | C11H7ClINO3
reactant | trimethylsilyl acetylene | 12.9 mL, 8.94 g | C[Si](C)(C)C#C | C5H10Si
reactant | triethylamine | 5.07 mL, 3.68 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 146 mL | CN(C)C=O | C3H7NO
product | 8-Chloro-3-methoxy-4-trimethylsilanylethynyl-1H-benzo(b)azepine-2,5-dione | 2.61 g | ClC=1C=CC2=C(NC(C(=C(C2=O)C#C[Si](C)(C)C)OC)=O)C1 | C16H16ClNO3Si
